US05484804
0.35 cm3 of triethylamine and then 0.33 cm2 of phenylacetyl chloride are added to a suspension of 1.1 g of (3aRS,4RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)perhydroisoindol-4-ol hydrochloride in 25 cm3 of dry dichloromethane at room temperature. The reaction mixture is stirred at this temperature for 24 hours, diluted with 200 cm3 of dichloromethane, washed with 100 cm3 of a saturated solution of sodium bicarbonate, with 100 cm3 of water (twice) and then with an aqueous saturated solution of sodium chloride, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a Merck silica gel column (particle size 0.04-0.06 mm, diameter 2 cm, height 22 cm) by eluting under a nitrogen pressure of 50 kPa with a mixture of cyclohexane and ethyl acetate (55/45 by volume) and collecting fractions of 20 cm3. Fractions 11 to 18 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is crystallized from 70 cm3 of acetonitrile and the crystals are filtered off and dried. 0.5 g of (3aRS,4RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-(phenylacetyl)perhydroisoindol-4-ol is obtained in the form of a white solid.

reactant | triethylamine | 0.35 cm3 | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | (3aRS,4RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)perhydroisoindol-4-ol hydrochloride | 1.1 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1
solvent | dichloromethane | 25 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 200 cm3 | ClCCl | CH2Cl2
product | (3aRS,4RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-(phenylacetyl)perhydroisoindol-4-ol | 0.5 g | C1(=CC=CC=C1)C1(CCC(C2CN(CC12)C(CC1=CC=CC=C1)=O)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C35H35NO3
